US07544683B2
trans-1-{4-[4-(4-Cyclobutyl-piperazine-1-carbonyl)-cyclohexyloxy]-phenyl}-pyrrolidin-2-one
To a mixture of 0.87 g (3.27 mmol) of cis-(4-cyclobutyl-piperazin-1-yl)-(4-hydroxy-cyclohexyl)-methanone, 0.80 g (3.64 mmol) of 4-iodephenol, 1.05 g (4.00 mmol) of triphenylphisphine in 20 ml THF, 0.92 g (4.00 mmol) of di-tert-butyl azodicarboxylate was added at 0° C., and stirred for 12 h at room temperature. After evaporation, the residue was purified by column chromatography on silica gel eluting with cyclohexane and ethyl acetate=from 100:0 to 2:1. The combined product fractions were evaporated to dryness to yield 0.54 g (21% yields, about 65% purity) of [4-(4-iodo-phenoxy)-cyclohexyl]-(4-cyclobutyl-piperazin-1-yl)-methanone. A mixture 100 mg of [4-(4-iodo-phenoxy)-cyclohexyl]-(4-cyclobutyl-piperazin-1-yl)-methanone, 142 mg (1.67 mmol) of 2-piperidone, 77 mg (0.56 mmol) of potassium carbonate and 37 mg (1.12 mmol) of copper was stirred at 175 degree for 6 hr. The mixture was diluted with AcOEt, filtered through celite. The filtrate was evaporated. The mixture was purified with preparative HPLC (CH3CN: 0.05% HCOOH-water, Zorbax Comb Ht 20*50 mm, 5 micron). The combined product fractions were evaporated. The residue was solved with saturated NaHCO3, extracted with AcOEt, washed with brine, dried over MgSO4, and evaporated to dryness to yield 31 mg (52%) of the title compound. MS (m/e): 426.2 (MH+).

reactant | [4-(4-iodo-phenoxy)-cyclohexyl]-(4-cyclobutyl-piperazin-1-yl)-methanone | 100 mg | IC1=CC=C(OC2CCC(CC2)C(=O)N2CCN(CC2)C2CCC2)C=C1 | C21H29IN2O2
reactant | 2-piperidone | 1.67 mmol, 142 mg | N1C(CCCC1)=O | C5H9NO
reactant | potassium carbonate | 0.56 mmol, 77 mg | C([O-])([O-])=O.[K+].[K+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | copper | 1.12 mmol, 37 mg | [Cu] | Cu
product | trans-1-{4-[4-(4-Cyclobutyl-piperazine-1-carbonyl)-cyclohexyloxy]-phenyl}-pyrrolidin-2-one | 31 mg, 52% | C1(CCC1)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C=C1)N1C(CCC1)=O | C25H35N3O3
